US05476851
STEP B 6-(5-chlorothien-2-yl)-1H-pyrazolo[3,4-g]quinoxaline 7-(5-chlorothien-2-yl)-1H-pyrazolo[3,4-g]quinoxaline
To a mixture of 5,6-diaminoindazole (0.5 g) in 30 ml absolute ethanol is added slowly a solution of 2-chloro-5-glyoxyloylthiophene (0.72 g) and 20 ml ethanol. The resulting mixture is stirred at room temperature for 4.5 hours. The yellow solid which forms is filtered off, washed with ethanol then with hexane and air dried overnight.

reactant | 5,6-diaminoindazole | 0.5 g | NC=1C=C2C=NNC2=CC1N | C7H8N4
reactant | 2-chloro-5-glyoxyloylthiophene | 0.72 g | ClC=1SC(=CC1)C(C=O)=O | C6H3ClO2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-(5-chlorothien-2-yl)-1H-pyrazolo[3,4-g]quinoxaline 7-(5-chlorothien-2-yl)-1H-pyrazolo[3,4-g]quinoxaline | ClC1=CC=C(S1)C=1C=NC=2C=C3C(=CC2N1)NN=C3.ClC3=CC=C(S3)C3=NC=1C=C2C(=CC1N=C3)NN=C2 | 2C13H7ClN4S
